US09126980B2
Step 5: Preparation of 4-Chloro-1-[2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-4-methoxy-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide
To a stirred solution of 2-(4-chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-5-methoxy-benzoic acid (0.35 g, 0.82 mmol) and (S)-(1,2,3,4-tetrahydroisoquinolin-3-yl)methanol (0.13 g, 0.82 mmol) in dichloromethane (8 mL) under nitrogen atmosphere was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.16 g, 0.82 mmol) and hydroxybenzotriazole (0.13 g, 0.82 mmol). The mixture was stirred at ambient temperature for 5 minutes. Triethylamine (0.34 mL, 2.5 mmol) was added to the mixture. The reaction was stirred for 60 hours at ambient temperature. The mixture was washed with water and purified by eluting through a silica gel column with a 10 to 100% ethyl acetate/heptane gradient to afford the title compound (21 mg, 4.5% yield). MS (ESI) [m/e, (M+H)+]=567.3. 1H NMR (400 MHz, chloroform-d) δ ppm 6.75-7.36 (m, 7H), 4.13-5.41 (m, 4H), 3.80-3.96 (m, 3H), 2.51-3.71 (m, 8H), 2.17-2.32 (m, 3H), 1.48-1.68 (m, 4H), 1.19-1.44 (m, 4H), 0.70-0.97 (m, 6H).

reactant | 2-(4-chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-5-methoxy-benzoic acid | 0.82 mmol, 0.35 g | ClC=1C(=NN(C1C)C1=C(C(=O)O)C=C(C=C1)OC)C(N(CCCC)CCCC)=O | C21H28ClN3O4
reactant | (S)-(1,2,3,4-tetrahydroisoquinolin-3-yl)methanol | 0.82 mmol, 0.13 g | C1N[C@@H](CC2=CC=CC=C12)CO | C10H13NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.82 mmol, 0.16 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 0.82 mmol, 0.13 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Triethylamine | 2.5 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-Chloro-1-[2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-4-methoxy-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 21 mg, 4.5% yield | C(CCC)N(C(=O)C1=NN(C(=C1Cl)C)C1=C(C=C(C=C1)OC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C31H39ClN4O4
